data/mechanism_extracts/RSCAdv/10.1039_d3ra07282g.json
{"doi": "10.1039_d3ra07282g", "journal": "RSCAdv", "is_review": false, "rxn_class_summary": "Electrochemical oxidative radical cascade trifluoromethylation/cyclization of N-(2-alkenylphenyl)benzamides with CF3SO2Na to give CF3-containing benzoxazines and oxazolines", "mechanism_family": ["radical_anodic"], "electrochemical_role": "Anodic oxidation of CF3SO2Na (Eox = 0.83 V) to CF3SO2 radical, which fragments to CF3 radical and SO2; cathodic reduction of HFIP generates H2; second anodic oxidation of the cyclized alkyl radical to a cation", "key_intermediates": [{"name": "CF3SO2 radical from anodic oxidation of CF3SO2Na", "smiles": "[O][S](=O)C(F)(F)F", "role": "transient"}, {"name": "CF3 radical (after SO2 extrusion)", "smiles": "[C](F)(F)F", "role": "reactive"}, {"name": "Intermediate I: alkyl C-radical from CF3 addition to alkene of N-(2-isopropenylphenyl)benzamide", "smiles": null, "role": "reactive"}, {"name": "Intermediate II: benzylic/oxocarbenium cation after radical cyclization onto amide oxygen and anodic oxidation", "smiles": null, "role": "reactive"}, {"name": "CF3-containing benzoxazine product 2a (after deprotonation)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes CF3SO2- to CF3SO2 radical which loses SO2 to give CF3 radical; CF3 radical adds to the alkene of the N-arylbenzamide to give alkyl radical I, which cyclizes onto the amide oxygen; the resulting radical is oxidized at the anode to cation II and deprotonated to deliver the benzoxazine, with cathodic H2 evolution from HFIP.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Addition of TEMPO completely suppressed formation of 2a (0% yield), supporting a radical pathway involving CF3 radical"}], "evidence_types_used": ["intermediate_trap_TEMPO", "cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "CV shows CF3SO2Na oxidizes at 0.83 V while substrate 1a oxidizes at 1.32 V, indicating preferential anodic oxidation of the sulfinate rather than the alkene (distinguishing this from alkene radical-cation pathways). Control entry without electricity gave no product, confirming electrochemistry is essential. CF2HSO2Na can replace CF3SO2Na to give the difluoromethyl analogue (2v, 31%)."}
